US06303636B1
A solution of N-benzyloxy-2-(4-methoxybenzenesulfonylamino)-2-methyl-propionamide (1.40 grams, 3.70 mmole) in methanol (80 mL) was treated with 5% palladium on barium sulfate (0.75 grams) and hydrogenated at 3 atmospheres pressure for 1.5 hours in a Parr shaker. The catalyst was removed by passage through a 0.45 μm nylon filter and the filtrate was concentrated to afford N-hydroxy-2-(4-methoxy-benzenesulfonylamino)-2-methylpropionamide as a white solid, 1.06 grams (100%). MP: 122-125° C. MS: 289 (M+1): Analysis calculated for C11H16N2O5S: C, 45.82; H, 5.59; N, 9.72; Found: C, 45.88; H, 5.60; N, 9.69.

reactant | N-benzyloxy-2-(4-methoxybenzenesulfonylamino)-2-methyl-propionamide | 3.70 mmole, 1.40 grams | C(C1=CC=CC=C1)ONC(C(C)(C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H22N2O5S
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium on barium sulfate | 0.75 grams | [Pd] | Pd
product | N-hydroxy-2-(4-methoxy-benzenesulfonylamino)-2-methylpropionamide | ONC(C(C)(C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C11H16N2O5S
